US07645752B2
Step 6: Preparation of 2-[3-(phenylsulfonyl)-1H-indol-5-yl]ethyl 4-methylbenzenesulfonate
To a solution of 2-[3-(phenylsulfonyl)-1H-indol-5-yl]ethanol (0.88 g, 2.91 mmol) in anhydrous pyridine (15 mL) at 0° C. was added toluenesulfonyl chloride (0.58 g, 3.05 mmol). The solution was stirred for 12 hours at room temperature. The mixture was partitioned between ethyl acetate and H2O, and the aqueous layer was extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with 2 M HCl, (2×25 mL), brine, dried (MgSO4), filtered and concentrated under reduced pressure. Silica gel chromatography (50% ethyl acetate/dichloromethane) gave the title compound as a white solid (1.3 g, 95%). Mp: 60-63° C. MS (ES−): 454 (M−H).

reactant | 2-[3-(phenylsulfonyl)-1H-indol-5-yl]ethanol | 2.91 mmol, 0.88 g | C1(=CC=CC=C1)S(=O)(=O)C1=CNC2=CC=C(C=C12)CCO | C16H15NO3S
reactant | toluenesulfonyl chloride | 3.05 mmol, 0.58 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 2-[3-(phenylsulfonyl)-1H-indol-5-yl]ethyl 4-methylbenzenesulfonate | 1.3 g, 95% | CC1=CC=C(C=C1)S(=O)(=O)OCCC=1C=C2C(=CNC2=CC1)S(=O)(=O)C1=CC=CC=C1 | C23H21NO5S2
